US08217043B2
g) 1-Benzyl-5,6,7-trichloro-4-hydroxy-2-oxo-1,2-dihydro-pyrrolo[1,2-b]pyridazine-3-carboxylic acid methyl ester
A mixture of 1-[benzyl-(2-ethoxycarbonyl-acetyl)-amino]-3,4,5-trichloro-1H-pyrrole-2-carboxylic acid methyl ester (278 mg, 0.62 mmol) and NaOMe in MeOH (5 mL, 2.5 mmol) in MeOH (3 mL) was refluxed for 4 h; then cooled, the reaction mixture was poured into ice cold 0.5 M HCl solution to quench, the precipitates were collected by filtration and then purified with silica gel column to give the desired product (85 mg) as slightly yellow solid. ESI (m/z): 401 (M+H)+.

reactant | 1-[benzyl-(2-ethoxycarbonyl-acetyl)-amino]-3,4,5-trichloro-1H-pyrrole-2-carboxylic acid methyl ester | 0.62 mmol, 278 mg | COC(=O)C=1N(C(=C(C1Cl)Cl)Cl)N(C(CC(=O)OCC)=O)CC1=CC=CC=C1 | C18H17Cl3N2O5
reactant | NaOMe | C[O-].[Na+]
solvent | MeOH | 3 mL | CO | CH4O
solvent | MeOH | 2.5 mmol, 5 mL | CO | CH4O
product | 1-Benzyl-5,6,7-trichloro-4-hydroxy-2-oxo-1,2-dihydro-pyrrolo[1,2-b]pyridazine-3-carboxylic acid methyl ester | 85 mg | COC(=O)C1=C(C=2N(N(C1=O)CC1=CC=CC=C1)C(=C(C2Cl)Cl)Cl)O | C16H11Cl3N2O4
